US07067540B2
Step 2. Preparation of 3-chloro-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-methylpyridin-2(1H)-one
To a solution of 3-chloro-1-(2,6-difluorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one (0.27 g, 1.00 mmol) in DMA (5 mL) was added K2CO3 followed by the addition of 2,4-difluorobenzyl bromide (0.128 mL, 1 mmol). The reaction mixture stirred at room temperature for 2 hours and then was diluted in water. The reaction mixture was extracted with ethyl acetate, the organic extracts were dried over Na2SO4 and the filtrate was concentrated. The resulting residue was purified by flash column chromatography (ethyl acetate/hexane 3:4 v/v) to afford the desired product. 1H-NMR (CD3OD, 400 MHz) δ 7.60 (m, 2H), 7.25 (m, 2H), 7.04 (m, 2H), 6.71 (s, 1H), 5.36 (s, 2H), 2.11 (s, 3H); ES-HRMS m/z 398.0551 (M+H calculated for C19H13NO2F4Cl requires 398.0571).

reactant | 3-chloro-1-(2,6-difluorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one | 1.00 mmol, 0.27 g | ClC=1C(N(C(=CC1O)C)C1=C(C=CC=C1F)F)=O | C12H8ClF2NO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,4-difluorobenzyl bromide | 1 mmol, 0.128 mL | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | 3-chloro-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-methylpyridin-2(1H)-one | ClC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C1=C(C=CC=C1F)F)=O | C19H12ClF4NO2
